Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine / Magnevist / Wellbutrin
 
Attending: ___
 
Major Surgical or Invasive Procedure:
none

attach
 
Pertinent Results:
Labs
___ 06:00AM BLOOD WBC-30.2* RBC-4.30 Hgb-11.0* Hct-35.1 
MCV-82 MCH-25.6* MCHC-31.3* RDW-19.6* RDWSD-56.1* Plt ___
___ 06:00AM BLOOD Glucose-83 UreaN-5* Creat-0.7 Na-139 
K-3.9 Cl-99 HCO3-28 AnGap-12
___ 06:00AM BLOOD ALT-37 AST-72* AlkPhos-129* TotBili-0.2

___ 11:00 pm BLOOD CULTURE      2 OF 2. 

   Blood Culture, Routine (Pending):    No growth to date. 

Imaging:
IMPRESSION: 
CT A/P
1. No evidence of an infectious process within the abdomen or 
pelvis. 
2. No interval change compared to prior abdominal CT from ___ with no evidence of new lesions suspicious for metastatic 
disease.

MRI Spine:
  
IMPRESSION: 
  
  
1. No evidence of epidural abscess or cord compression. 
2. Cervical spine: Mild multilevel cervical spondylosis. 
3. Thoracic spine: Slightly heterogeneous bone marrow signal at 
T2 is 
compatible with history of treated metastatic lesion, with 
corresponding 
sclerosis with lack of FDG uptake on the ___ PET/CT. 
4. Lumbar Spine: Mild-to-moderate lumbar spondylosis, most 
prominent at L4-L5 
where there is moderate left and severe right neural foraminal 
narrowing with 
contact of the exiting right L4 nerve root. 
PREVALENCE:  Prevalence of lumbar degenerative disk disease in 
subjects 
without low back pain: 
Overall evidence of disk degeneration 91% (decreased T2 signal, 
height loss, 
bulge) 
T2 signal loss 83% 
Disk height loss 58% 
Disk protrusion 32% 
Annular fissure 38% 
Jarvik, et all.  Spine ___ 26(10):___ 
Lumbar spinal stenosis prevalence- present in approximately 20% 
of 
asymptomatic adults over ___ years old 
___, et al, Spine Journal ___ 9 (7):___ 
  
These findings are so common in asymptomatic persons that they 
must be 
interpreted with caution and in context of the clinical 
situation. 

CXr:
IMPRESSION: 
  
  
1. Worsening elevation of the right hemidiaphragm. 
  
2. No focal areas of consolidation concerning for pneumonia.  
Please note that 
negative x-rays in immunocompromise patient's with high index of 
infection 
suspicion, a CT chest with high-resolution is recommended. 
3. Osseous metastasis are redemonstrated 
 

 
Brief Hospital Course:
Ms. ___ is a ___ with Stage IV HER2 positive metastatic
breast cancer, presenting for fever and chills after having
received C2D15 Trastuzumab/Navelbine on ___. Initially 
febrile in the emergency department to 102.6 and was given a 
dose of cefepime which was subsequently discontinued given 
patient was clinically stable without additional fevers or 
tachycardia. Imaging including CXR and CT abdomen/pelvis we 
unrevealing for any localizing infectious source. Initial 
concern for low O2 sats but patient saturated in mid ___ without 
SOB or symptoms on ambulatory O2 on day of discharge. Patient 
felt well, appeared clinically well. Thought fevers may be iso 
robust immune response given patient received Neulasta on ___. 
She was discharged home in good condition. 

#Fever: 
Patient not neutropenic, fever without clear localizing 
symptoms.
S/P blood culture, urine culture in ED. No history of resistant
organisms in our system. MRI spine without evidence of epidural
abscess. CXR without obvious pneumonia. Initially on broad
spectrum abx which were discontinued given no identified source
on cxr or ct abd/pelvis, pt afebrile, clinically appearing
stable. Ambulatory O2 with Sats 96-98%, while talking, no SOB. 
Thought fever may be iso receipt of Neulasta on ___ and 
subsequent immune reconstitution. 

#Stage IV HER2 positive breast cancer:
First diagnosed in ___. Follows with Dr. ___. Currently on
Trastuzumab/Navelbine. Last received ___. Next dose due ___.

CHRONIC ISSUES:
==============
-Hypothyroid- Continue home levothyroxine
-Anxiety-Continue home sertraline and bupropion
-Neuropathy-Continue home gabapentin

TRANSITIONAL ISSUES
===================
[] Follow-up of blood and urine cultures obtained in emergency 
department on ___

CORE MEASURES
=============
# HCP/CONTACT: ___ 
Relationship: spouse 
Phone number: ___ 
# CODE STATUS: full
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
further investigation.
1. BuPROPion (Sustained Release) 200 mg PO QAM 
2. Gabapentin 300 mg PO QID PRN Arm Pain 
3. Levothyroxine Sodium 25 mcg PO DAILY 
4. Sertraline 150 mg PO DAILY 
5. doxylamine succinate (bulk) 25 mg PO QHS 

 
Discharge Medications:
1.  BuPROPion (Sustained Release) 200 mg PO QAM  
2.  doxylamine succinate (bulk) 25 mg PO QHS  
3.  Gabapentin 300 mg PO QID PRN Arm Pain  
4.  Levothyroxine Sodium 25 mcg PO DAILY  
5.  Sertraline 150 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Dx
Fever

Secondary Dx
breast cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
======================  
DISCHARGE INSTRUCTIONS  
======================  
Dear Ms. ___,
 
It was a pleasure caring for you at ___ 
___!
 
WHY WAS I IN THE HOSPITAL?  
 - You were admitted to the hospital because you were having 
fevers and chills starting on ___. In the emergency 
department you were noted to have a fever.
 
WHAT HAPPENED TO ME IN THE HOSPITAL?  
 - In the hospital we gave you a dose of antibiotics. 
 - We also obtained imaging of your chest which did not show any 
overt signs of pneumonia at this time, a CT scan of your abdomen 
and pelvis were performed which did not show any findings 
concerning for an infectious source. 
 - We performed laboratory tests which show you had a high white 
count which we believe was a robust immune response to your 
neulasta you received after chemotherapy. 

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
 - Continue to take all your medicines and keep your 
appointments.
 - Follow up with your primary oncologist.   
 
We wish you the best!  
 
Sincerely,  
Your ___ Team  

 
Followup Instructions:
___